US07173038B1
Using an analogous procedure to that described for the synthesis of the starting material in Example 8, 7-benzyloxy-4-(4-bromo-2,6-difluoroanilino)-6-methoxyquinazoline (1.9 g, 4.02 mmol) was reacted with TFA (20 ml) to give 4-(4-bromo-2,6-difluoroanilino)-7-hydroxy-6-methoxyquinazoline (1.5 g, 98%).

reactant | 7-benzyloxy-4-(4-bromo-2,6-difluoroanilino)-6-methoxyquinazoline | 4.02 mmol, 1.9 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1F)Br)F)OC | C22H16BrF2N3O2
solvent | TFA | 20 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-bromo-2,6-difluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.5 g, 98% | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C(=C1)F)F | C15H10BrF2N3O2
